### ISSUE TITLE
prove ProbMethodCombinatorics.measure_sub_integral_ge_le

### ISSUE THREAD

**Issue by yidiq7** [yidiq7/ProbMethodCombinatorics#81]
---
choir-task-version: 1
type: prove
target_file: ProbMethodCombinatorics/Concentration.lean
target_decl: ProbMethodCombinatorics.measure_sub_integral_ge_le
project_ref:
  repo: yidiq7/ProbMethodCombinatorics
  commit: a8b6e797ab14269a203ae3a897180428e7b0e398
  toolchain: leanprover/lean4:v4.33.0
deps: []
blueprint_ref: bounded_differences
---

**The bounded differences inequality** — Zhao, Theorem 9.1.3 (`sources/mit18_226_f22_lec_full.pdf`, printed p. 130 = PDF p. 136). Also known as McDiarmid's inequality and the Azuma–Hoeffding inequality.

If changing coordinate `i` alone moves `f` by at most `c i`, then

    ℙ(f - 𝔼f ≥ λ) ≤ exp(-2λ² / ∑ᵢ cᵢ²).

Chapter 5's Chernoff bound is the case `f = ∑ xᵢ`, so this is a genuine generalisation: any `1`-Lipschitz function of `n` independent coordinates fluctuates in a window of length `O(√n)`, sum or not.

**Two routes, and the statement deliberately does not prejudge which.**

1. *The source's.* Build the Doob martingale `Zᵢ = 𝔼[f | X₁,…,Xᵢ]` and apply Azuma's inequality. Mathlib has martingales with filtrations (`MeasureTheory.Martingale`) but **no Azuma**, so you would be building that too. Note the source is careful here: Theorem 9.2.8's form of Azuma gives the *weaker* constant `exp(-λ²/(2∑cᵢ²))`, and the sharp `-2λ²` requires Theorem 9.2.9, the Doob-martingale refinement conditioned on the interval containing `Zᵢ`.
2. *Through Mathlib's sub-Gaussian machinery.* `hasSubgaussianMGF_of_mem_Icc_of_integral_eq_zero` **is Hoeffding's lemma** (Lemma 9.2.12) — a mean-zero variable in an interval of length `ℓ` has `𝔼[e^{tX}] ≤ e^{t²ℓ²/8}` — and `ProbabilityTheory.HasSubgaussianMGF` carries the Chernoff-style tail bound (`measure_ge_le`). If you can express the martingale increments as conditionally sub-Gaussian, this route reuses the whole engine rather than rebuilding it.

**Read both before choosing.** Route 2 is likely shorter but the conditional-sub-Gaussian bookkeeping (`HasCondSubgaussianMGF` in the same file) is unfamiliar territory; route 1 is more faithful to the source but builds Azuma from scratch.

**Project facts.**
- Independence is *structural* here: the measure is `Measure.pi μ`, so there is no independence hypothesis to discharge.
- `hc` says exactly "`x` and `y` agree off coordinate `i`", matching the source's "differ on one coordinate".
- `hsum : 0 < ∑ cᵢ²` keeps the exponent well defined. If every `cᵢ` is `0` then `f` is constant and the statement should hold trivially — if you find `hsum` can be dropped, say so on this issue.
- Measurability/integrability of `f` is not hypothesised. The bounded-differences condition makes `f` bounded on a product of probability spaces, so it should be integrable — but **if you find the statement needs a measurability hypothesis, say so rather than working around it.** Adding one is a change to a published statement and is mine to make.

**Hard.** A reduction is an acceptable return — Azuma, or the conditional sub-Gaussian step, is a natural separate declaration, and would be valuable on its own since Mathlib lacks it.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 3e0dad69e88e6799
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 3e0dad69e88e6799
```

_Lease refreshed 2026-09-13T15:48:17+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
**choir-defect** — "this statement is wrong", not "this proof is hard".

`measure_sub_integral_ge_le` is **false as published**, because `f` is not required to be
measurable and the `MeasurableSpace (Ω i)` instances are arbitrary. I stopped before writing
any of the main proof; the workspace is clean and nothing was committed.

TASK.md asked for exactly this: *"if you find the statement needs a measurability hypothesis,
say so rather than working around it."*

### The counterexample

No Vitali set or heavy choice — a **trivial σ-algebra** does all the work.

Take `ι = Fin 1`, `Ω _ = Bool` carrying `⊥`, `μ _ = Measure.dirac true`,
`f x = cond (x 0) 1 0`, `c _ = 1`, `lam = 1`.

- `MeasurableSpace.pi` over `⊥` is `⨆ a, (⊥).comap (eval a) = ⊥`, so on `Fin 1 → Bool` the
  only measurable sets are `∅` and `univ`.
- `hc` holds, and in fact more than holds: on `Fin 1` the "agree off coordinate `i`"
  hypothesis is vacuous, so `hc` demands `|f x - f y| ≤ 1` for *all* `x, y`, which is true
  since `f` has range `{0, 1}`. `hsum : 0 < 1` holds.
- `f` is **not** measurable — `f ⁻¹' Ici 1` contains `fun _ => true` and misses
  `fun _ => false`, so it is neither `∅` nor `univ`. Hence `∫ y, f y = 0` by `integral_undef`,
  reached through `¬ Integrable → ¬ AEMeasurable → ¬ Measurable` rather than by fiat (a.e.
  equality collapses to genuine equality here, since the only null set is `∅`).
- So the event is `{x | 1 ≤ f x} = {x | x 0 = true}`, non-measurable, and `Measure.pi μ` of it
  is the outer value `⨅ {t ⊇ s | MeasurableSet t}, μ t = μ univ = 1`.

The bound then demands `1 ≤ exp (-2 * 1 / 1) = exp (-2) ≈ 0.135`.

The defect in one line: **`{x | x 0 = true}` and `{x | x 0 = false}` are disjoint and each has
measure 1**, while their union also has measure 1.

### Machine-checked, and checked for fidelity

Two separate checks, because a refutation that leans on the target's own `sorry` would prove
nothing:

1. **`not_measure_sub_integral_ge_le`** states `¬ (the theorem's proposition)` directly and
   never mentions `measure_sub_integral_ge_le`. `#print axioms` reports

       [propext, Classical.choice, Quot.sound]

   — no `sorryAx`.

2. **Fidelity**: the published declaration *entails* that exact proposition —

   ```lean
   example : ∀ {ι : Type} [Fintype ι] {Ω : ι → Type} [∀ i, MeasurableSpace (Ω i)] … := by
     intro ι iF Ω iM μ iP f c hc hsum lam hlam
     exact @ProbMethodCombinatorics.measure_sub_integral_ge_le ι iF Ω iM μ iP f c hc hsum lam hlam
   ```

   elaborates with no error, no coercion and no argument reshuffling. (This one does depend on
   the `sorry`, which is why it is only the fidelity half.)

Together: the published statement implies a proposition whose negation is proved
unconditionally.

### Suggested repair

Add a measurability hypothesis on `f`. **`(hf : Measurable f)` is the cleanest.** `hc` already
forces bounded range — chaining the one-coordinate bound over all `i` gives
`|f x - f y| ≤ ∑ᵢ cᵢ` for all `x, y` — so measurable + bounded on a probability space gives
integrability for free, and it also makes `{x | lam ≤ f x - ∫ y, f y}` genuinely measurable, so
the left-hand side is a probability rather than an outer probability.
`AEStronglyMeasurable f (Measure.pi μ)` would suffice if you want the weakest form, but
`Measurable f` is what the applications will supply.

### The other question TASK.md asked: `hsum` is droppable

Verified:

```lean
example {α : Type} [MeasurableSpace α] (ν : Measure α) [IsProbabilityMeasure ν]
    (S : Set α) (lam : ℝ) (c : Fin 3 → ℝ) (h0 : ∑ i, c i ^ 2 = 0) :
    (ν S).toReal ≤ Real.exp (-2 * lam ^ 2 / ∑ i, c i ^ 2) := by
  rw [h0, div_zero, Real.exp_zero]
  exact ENNReal.toReal_le_of_le_ofReal zero_le_one (by simpa using prob_le_one)
```

When `∑ cᵢ² = 0`, Lean's `x / 0 = 0` makes the right side `exp 0 = 1` and the left side is a
probability. So the degenerate case is trivially true and the constancy-of-`f` argument is
never needed; this also covers `ι = ∅`. Independent of the measurability defect, and it stays
true of a corrected statement.

### Note on the route, for when the statement is repaired

Not chosen, since I stopped. One reading of the API worth recording but **not verified**:
route 2 via `HasSubgaussianMGF` inherits `exp(-t²/(2σ²))`-shaped tails from
`HasSubgaussianMGF.measure_ge_le`, and `hasSubgaussianMGF_of_mem_Icc_of_integral_eq_zero` gives
variance proxy `ℓ²/8` for an interval of length `ℓ`. The Doob increment for coordinate `i` lies
in an interval of length at most `cᵢ`, which is what would recover the sharp
`exp(-2λ²/∑cᵢ²)` rather than the weaker constant. The conditional-sub-Gaussian bookkeeping is
unchecked, so please treat that as a hint, not a finding.

### Why no reduction

A reduction closing a false target must contain a false obligation, and a wrong published
obligation is worse than none.

Releasing the claim so the task is free once the statement is settled.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: release
protocol: 8
```

**Comment by yidiq7** [comment]
**The statement was wrong, and it has been changed. Re-pinned to `f6e3aa2`; please re-read the statement before starting.**

This task was claimed and then released with no PR. That is the project's only signal for a bad statement — it shows up nowhere in the metrics — so I went back over it, and the previous statement was false.

The bounded differences hypothesis `hc` does not imply `f` is measurable. In Mathlib a measure applied to a **non-measurable** set returns its outer measure, and `∫` of a non-integrable function returns junk `0`. So take `ι = Fin 1`, `Ω 0 = ℝ` under any probability measure, `c 0 = 1`, and `f` the indicator of a Bernstein set — a non-measurable set of outer measure `1`. With a one-element index type the condition `hc` just says `f` has range of diameter at most `c 0`, so it holds; `∫ f = 0`; and at `lam = 1/2` the left-hand side is `1` while the right-hand side is `exp(-1/2) ≈ 0.607`.

The fix is one hypothesis, `hf : Measurable f`. Nothing else changed — the conclusion, the constant `-2λ²/∑cᵢ²`, and the route through Azuma and `hasSubgaussianMGF_of_mem_Icc_of_integral_eq_zero` are as before. Note that `hf` together with `hc` gives boundedness and hence integrability, so the `∫` needs no separate hypothesis and you should not add one.

Apologies for the wasted claim — this one was my error, not yours. If you hit something like it again, saying so on the issue is exactly the right move and is a welcome outcome.

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: claim
protocol: 8
session: 6c706e620792f3dd
```

**Comment by yidiq7** [comment]
```choir-lease
login: yidiq7
action: heartbeat
protocol: 8
session: 6c706e620792f3dd
```

_Lease refreshed 2026-09-13T20:32:34+00:00; this comment is edited in place._

**Comment by yidiq7** [comment]
Submitted in https://github.com/yidiq7/ProbMethodCombinatorics/pull/108.

**Comment by yidiq7** [comment]
Proved in #108, unconditionally. Two findings you asked for in `TASK.md`, reported here as requested
rather than only in the PR.

**1. `hsum : 0 < ∑ cᵢ²` can be dropped.** The proof never uses it. I checked this rather than
inferring it: a copy of the statement with the `hsum` binder deleted compiles with an identical proof
body. Keeping it is harmless — when `∑cᵢ² = 0` the division is junk-`0` in Lean and the bound reads
`≤ 1`, which holds, matching your note that `f` is then constant — but it is dead weight in the
statement. I have not touched it, since that is a change to a published statement and yours to make.

**2. `hf : Measurable f` alone suffices — no integrability hypothesis is needed.** The docstring's
argument is correct, and it is now formalised: bounded differences give `|f x − f y| ≤ ∑ cᵢ`, so `f` is
bounded, and measurable + bounded on a probability measure gives `Integrable f`. Nothing further was
required anywhere in the chain.

**One thing worth recording in the project's notes, since it will mislead the next person.** Mathlib
*does* have Azuma, as `ProbabilityTheory.measure_sum_ge_le_of_hasCondSubgaussianMGF` — but it is gated
on `[StandardBorelSpace Ω]`, because `HasCondSubgaussianMGF` is defined through `condExpKernel`. The
`Ω i` here are arbitrary measurable spaces, so route 2 as posed in `TASK.md` is a **dead end at this
generality**. What works instead is that on a *product* measure the conditional expectation is
explicit, so the Doob martingale can be built by hand as partial integrals and the MGF induction run
directly with Fubini — Mathlib is then needed only for Hoeffding's lemma and the Chernoff bound.

The PR adds `integral_exp_mul_integral_merge_le`, which is in effect the sharp Azuma step (Thm 9.2.9)
the project was missing, and `measurePreserving_update_pi`, which is reusable for any product-measure
resampling argument. Both are proved. If you would rather they were not public API, they can be made
`private` on request.
